US06498172B1
(3-{[(3,5-Dimethyl-isoxazole-4-sulfonyl)-(4-pyrimidin-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester
To a solution of {3-[(4-pyrimidin-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester (83.3 mg, 0.2054 mmol), prepared in Step A of Example 13o, in CH2Cl2 was added triethylamine (0.94 mL, 0.68 mmol) and 3,5-dimethyl-isoxazole-4-sulfonyl chloride (44.2 mg, 0.226 mmol) and the reaction was heated at reflux overnight. After cooling to room temperature, additional triethylamine (0.94 mL) and 3,5-dimethyl-isoxazole-4-sulfonyl chloride (44 mg) was added. The reaction was heated at reflux for 72 h and was cooled to room temperature. The organic solution was washed sequentially with 5.5% aqueous HCl, water, saturated sodium bicarbonate solution, and brine. The organic solution was dried (MgSO4), filtered, and concentrated. Flash chromatography (CHCl3:MeOH 99:1) provide the title compound of Step A (61 mg). MS 565 (M+1).

reactant | {3-[(4-pyrimidin-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | 0.2054 mmol, 83.3 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC=CC=N1)=O | C24H27N3O3
reactant | triethylamine | 0.68 mmol, 0.94 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-dimethyl-isoxazole-4-sulfonyl chloride | 0.226 mmol, 44.2 mg | CC1=NOC(=C1S(=O)(=O)Cl)C | C5H6ClNO3S
reactant | triethylamine | 0.94 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-dimethyl-isoxazole-4-sulfonyl chloride | 44 mg | CC1=NOC(=C1S(=O)(=O)Cl)C | C5H6ClNO3S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3-{[(3,5-Dimethyl-isoxazole-4-sulfonyl)-(4-pyrimidin-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | 61 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C1=NC=CC=N1)S(=O)(=O)C=1C(=NOC1C)C)=O | C29H32N4O6S
